US03952001
A mixture of 4.8 g. 3-propylsulphinyl-1,2,4-triazole, 4.48 g. diethylcarbamoyl chloride, 40 ml. dry tetrahydrofuran and 6 ml. dry triethylamine was refluxed under anhydrous conditions for 5 hours. The cooled reaction mixture was filtered to remove triethylamine hydrochloride. The filtrate was diluted with petroleum ether (b.p. 40° - 60°C.), causing the deposition of an oil which gradually solidified. The solid product was collected and recrystallized from a mixture of ether and petroleum ether (b.p. 40° - 60°C.) to give 1-diethylcarbamoyl-3-propylsulphinyl-1,2,4-triazole, m.p. 50.5° - 51.5°C.

reactant | 3-propylsulphinyl-1,2,4-triazole | C(CC)S(=O)C1=NNC=N1 | C5H9N3OS
reactant | diethylcarbamoyl chloride | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-diethylcarbamoyl-3-propylsulphinyl-1,2,4-triazole | C(C)N(C(=O)N1N=C(N=C1)S(=O)CCC)CC | C10H18N4O2S
